US05248830
A solution of meta-chloroperbenzoic acid (20 g, 90 mmol) in 250 ml of CH2Cl2 is added dropwise to a cooled (0° C.) solution of 1-fluoro-2-methyl-4-(3,3,5,5-tetramethylcyclohex-1-en-1-yl)benzene (15 g, 61 mmol) and K2HPO4 (21 g, 90 mmol) in dry CH2Cl2 (100 ml). The resulting milky solution is stirred at room temperature for 14 hours, filtered and washed successively with 5% cold NaOH (2×50 ml), H2O (2×50 ml) and brine (75 ml). The CH2Cl2 fraction is dried (MgSO4), and the solvent is removed under reduced pressure to provide 14 g (88%) of 2-(4-fluoro-3-methylphenyl)-4,4,6,6-tetramethyl-1-epoxycyclohexane: 1H NMR δ=0.9 (s,6), 0.95 (s,3), 1.1 (s,3), 1.15 (q,2), 1.85 (AB-q, 2), 2.1 (s,3), 2.55 (s,1), 6.85 (t,1), 7.1 (t,1), 7.25 (dd,1).

reactant | meta-chloroperbenzoic acid | 90 mmol, 20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-fluoro-2-methyl-4-(3,3,5,5-tetramethylcyclohex-1-en-1-yl)benzene | 61 mmol, 15 g | FC1=C(C=C(C=C1)C1=CC(CC(C1)(C)C)(C)C)C | C17H23F
reactant | K2HPO4 | 90 mmol, 21 g | OP(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-fluoro-3-methylphenyl)-4,4,6,6-tetramethyl-1-epoxycyclohexane | 14 g, 88% | FC1=C(C=C(C=C1)C12C(C(CC(C1)(C)C)(C)C)O2)C | C17H23FO
